US06387919B1
A solution of 2.66 g (20.0 mmol) of ethyl (methylthio)acetate dissolved in 200 mL of dichioromethane was cooled with stirring to −70° C. and 2.7 g (20.0 mmol) of sulfuryl chloride was added. The reaction was stirred for 30 min. at −70° C., and a solution of 3.0 g (20 mol) of methyl 4-aminobenzoate and 4.3 g (20 mmol) of Proton Sponge® in 250 mL of dichloromethane was added dropwise over 1 h. The resulting pink slurry was treated with 2.3 9 (23 mmol) of TEA in one portion, and the solution was allowed to warm to rt. The solution was washed with three 250-mL portions of water, dried over MgSO4, and concentrated to give an oil. This was chromatographed on silica gel eluting with hexane:EtOAc (1:1) to yield 2.0 g (42% yield) of 3-methylthio-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester: 1H NMR (DMSO-d6): δ 1.97 (s, 3H), 3.35 (s, 3H), 4.67 (s, 1H), 6.97 (d, J=8.2 Hz, 1H), 7.84 (s, 1H), 7.91 (d, J=8.2 Hz, 1H), 10.97 (s, 1H), solution of 2.0 g (8.4 mmol) of 3-methylthio-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester in 20 mL of acetic acid was treated with 10 g of zinc powder. The reaction mixture was stirred for 2 h at rt, filtered through celite and concentrated to dryness. The residue was chromatographed on silica gel eluting with hexane:EtOAc (1:1) to yield 1.6 g (99% yield) of 2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester as a pink solid: 1H NMR (DMSO-d6): δ 3.52 (s, 2H), 3.77 (s, 3H), 6.87 (d, J=8.2 Hz, 1H), 7.74 (s, J=1H), 7.80 (d, J=8.2 Hz, 1H), 10.72 (br s, 1H). Conversion to the 3-dimethylaminomethylene-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester (mixture of E and Z isomers) was carried out via Procedure G in 49% yield: 1H NMR (DMSO-d6): δ 3.29 Z (s, 6H), 3.31 E (s, 6H), 3.76 Z (s, 3H), 3.76 E (s, 3H), 6.74 Z (d, J=8.1 Hz, 1H), 6.81 E (d, J=8.2 Hz, 1H), 7.47-7.50 Z (m, 1H), 7.50-7.52 E (m, 1H), 7.57 E (dd, J=1.3, 8.2 Hz, 1H), 7.74 Z (s, 1H), 7.89 Z (s, 1H), 7.94 E (s, 1H), 10.33 Z (bs, 1H), 10.43 E (bs, 1H). The title compound was prepared in 41% yield from 3-[(dimethylamino)methylene]oxindole-5-carboxylic acid methyl ester and 4-aminobenzenesulfonamide according to Procedure J: 1H NMR (DMSO-d6): δ 3.81 (s, 3H), 6.92 (d, J=8.2 Hz, 1H), 7.26 (s, 2H), 7.60 (d, J=8.4 Hz, 2H), 7.69 (d, J=8.2 Hz, 1H), 7.75 (d, J=8.4 Hz, 2H), 8.29 (s, 1H), 8.86 (d, J=12.4 Hz, 1H), 10.80 (d, J=12.4 Hz, 1H), 10.94 (s, 1H); APCI−MS m/z 372 (M−1)−. Anal. Calcd for C17H15N3O5S: C, 54.68, H, 4.05; N, 11.25; S, 8.59. Found C, 54.65, H, 4.12; N, 11.17; S. 8.49.

reactant | 3-methylthio-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester | 8.4 mmol, 2.0 g | COC(=O)C=1C=C2C(C(NC2=CC1)=O)SC | C11H11NO3S
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 10 g | [Zn] | Zn
product | 2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester | 1.6 g, 99% yield | COC(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO3
